US05002953
5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione
A solution of 4-[2-(N-methyl-N-(2-benzoxazolyl)amino) ethoxy]benzaldehyde (1.6 g) and 2,4-thiazolidinedione (0.63 g) in toluene (100 ml) containing a catalytic quantity of piperidinium acetate was boiled under reflux in a Dean and Stark apparatus for 2 hours. The mixture was cooled and filtered to give the title compound (mp 227°-9° C.).

reactant | 4-[2-(N-methyl-N-(2-benzoxazolyl)amino) ethoxy]benzaldehyde | 1.6 g | CN(C=1OC2=C(N1)C=CC=C2)CCOC2=CC=C(C=O)C=C2 | C17H16N2O3
reactant | 2,4-thiazolidinedione | 0.63 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione | CN(C=1OC2=C(N1)C=CC=C2)CCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C20H17N3O4S
